US07342115B2
Phenyllithium (1M in THF, 0.26 mL) is added dropwise to a solution of 6-(2,6-diethyl-phenyl)-4-methoxy-pyridine-3-carbaldehyde (70 mg, 0.26 mmol) in ether (4 mL) at room temperature. The mixture is stirred for 2 hours, then treated with aqueous NH4Cl solution (4 mL) and diluted with ether (10 mL). The organic layer is separated, dried and concentrated. The crude is purified by PTLC (4:1 hexane/EtOAc) to give [6-(2,6-diethyl-phenyl)-4-methoxy-pyridin-3-yl]-phenyl-methanol. 1H NMR (CDCl3) 8.51 (s, 1H), 7.26-7.43 (m, 6H), 7.15 (d, 2H), 6.76 (s, 1H), 6.06 (s, 1H), 3.82 (s, 3H), 3.21 (s, 1H), 2.32 (m, 4H), 1.05 (m, 6H).

reactant | Phenyllithium | 1M, 0.26 mL | C1(=CC=CC=C1)[Li]
reactant | 6-(2,6-diethyl-phenyl)-4-methoxy-pyridine-3-carbaldehyde | 0.26 mmol, 70 mg | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C=O)OC | C17H19NO2
reactant | NH4Cl | 4 mL | [NH4+].[Cl-]
solvent | ether | 4 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | [6-(2,6-diethyl-phenyl)-4-methoxy-pyridin-3-yl]-phenyl-methanol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C(O)C1=CC=CC=C1)OC | C23H25NO2
